US06057322
c) Methyl 2-methyl-5-nitro-4-phenylbenzoate
22.6 g of methyl 4-bromo-2-methyl-5-nitrobenzoate, 23 g of K2CO3 and 7.8 g of phenol were stirred at 120° C. for 2 hours in 300 ml of DMF. The solvent was removed in vacuo, 2 l of water were added, and the mixture was adjusted to pH=7 using aqueous HCl solution and extracted 3 times using 500 ml of EA each time. The organic phase was dried over Na2SO4, the solvent was removed in vacuo and chromatography on silica gel using EA/HEP 1:4 yielded 13 g of a colorless oil.

reactant | methyl 4-bromo-2-methyl-5-nitrobenzoate | 22.6 g | BrC1=CC(=C(C(=O)OC)C=C1[N+](=O)[O-])C | C9H8BrNO4
reactant | K2CO3 | 23 g | C(=O)([O-])[O-].[K+].[K+]
reactant | phenol | 7.8 g | C1(=CC=CC=C1)O | C6H6O
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | Methyl 2-methyl-5-nitro-4-phenylbenzoate | 13 g | CC1=C(C(=O)OC)C=C(C(=C1)C1=CC=CC=C1)[N+](=O)[O-] | C15H13NO4
